subckt ao311_x1 A1 A2 B1 B2 C X VDD VSS
AO311N30_PA0 (ao311_and_n A1 VDD VDD) pmos w=2u l=100n
AO311N30_PB0 (ao311_and_n A2 VDD VDD) pmos w=2u l=100n
AO311N30_PC0 (ao311_and_n B1 VDD VDD) pmos w=2u l=100n
AO311N30_NC0 (ao311_and_n B1 nmid2 VSS) nmos w=1u l=100n
AO311N30_NB0 (nmid2 A2 nmid1 VSS) nmos w=1u l=100n
AO311N30_NA0 (nmid1 A1 VSS VSS) nmos w=1u l=100n
AO311I30_P0 (ao311_and ao311_and_n VDD VDD) pmos w=2u l=100n
AO311I30_N0 (ao311_and ao311_and_n VSS VSS) nmos w=1u l=100n
AO311N3B0_PA0 (pmid1 ao311_and VDD VDD) pmos w=2u l=100n
AO311N3B0_PB0 (pmid2 B2 pmid1 VDD) pmos w=2u l=100n
AO311N3B0_PC0 (ao311_or_n C pmid2 VDD) pmos w=2u l=100n
AO311N3B0_NA0 (ao311_or_n ao311_and VSS VSS) nmos w=1u l=100n
AO311N3B0_NB0 (ao311_or_n B2 VSS VSS) nmos w=1u l=100n
AO311N3B0_NC0 (ao311_or_n C VSS VSS) nmos w=1u l=100n
AO311O0_P0 (X ao311_or_n VDD VDD) pmos w=2u l=100n
AO311O0_N0 (X ao311_or_n VSS VSS) nmos w=1u l=100n
ends ao311_x1
